US07534791B2
Synthesis of 2-(benzo[b]thiophen-3-ylsulfanyl)-5-methyl-benzoic acid (Method 10.)
LiOH (480 mg, 20 mmol) is added to 2-(benzo[b]thiophen-3-ylsulfanyl)-5-methyl-benzoic acid methyl ester (630 mg, 2 mmol) in 16 mL mixture of THF/water (3:1). The reaction mixture is refluxed for 2 hours and cooled to room temperature. Water and ethyl acetate is added and the organic phase is washed with brine, dried with MgSO4 and concentrated in vacuo to give the title compound, which is used in the next step without further purification.

reactant | LiOH | 20 mmol, 480 mg | [Li+].[OH-]
reactant | 2-(benzo[b]thiophen-3-ylsulfanyl)-5-methyl-benzoic acid methyl ester | 2 mmol, 630 mg | COC(C1=C(C=CC(=C1)C)SC=1C2=C(SC1)C=CC=C2)=O | C17H14O2S2
reactant | THF water | C1CCOC1.O
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(benzo[b]thiophen-3-ylsulfanyl)-5-methyl-benzoic acid | S1C2=C(C(=C1)SC1=C(C(=O)O)C=C(C=C1)C)C=CC=C2 | C16H12O2S2
